US04011230
A solution of phenacyl dimethyldithiocarbamate (12.0 grams, 0.050 mole), formaldehyde (4.1 grams of 37% aqueous solution, 0.050 mole), carbon disulfide (1.9 grams, 0.025 mole), and dimethylammonium dimethyldithiocarbamate (8.3 grams, 0.050 mole) in methanol (50 ml.) was stirred and heated at 38° C.-40° C. for 2.5 hours. The reaction mixture was then cooled to 0° C. and the precipitated product was filtered off, washed with cold methanol and dried in air. The yield of product melting at 106° C.-108.5° C. was 17.6 grams (94%). Repeated recrystallization from methylene chloride-methanol and acetone-2-propanol solution without heat gave pure 1-benzoylethylene dimethyldithiocarbamate melting at 106° C.-109.5° C. The structure was determined from the infrared spectrum and elemental analysis.

reactant | phenacyl dimethyldithiocarbamate | 0.050 mole, 12.0 grams | CN(C(SCC(=O)C1=CC=CC=C1)=S)C | C11H13NOS2
reactant | formaldehyde | 0.050 mole, 4.1 grams | C=O | CH2O
reactant | carbon disulfide | 0.025 mole, 1.9 grams | C(=S)=S | CS2
reactant | dimethylammonium dimethyldithiocarbamate | 0.050 mole, 8.3 grams | CN(C([S-])=S)C.C[NH2+]C
solvent | methanol | 50 ml | CO | CH4O
product | 1-benzoylethylene dimethyldithiocarbamate | CN(C(S)=S)C.C(C1=CC=CC=C1)(=O)C=C | InChI=1S/C9H8O.C3H7NS2/c1-2-9(10)8-6-4-3-5-7-8;1-4(2)3(5)6/h2-7H,1H2;1-2H3,(H,5,6)
